US05650533
A mixture of 5-cyclopropylcarbonyl-2,2-dimethyl-1,3-dioxan-4,6-dione (23.9 g) and t-butanol (25 g) in dry toluene (80 ml) was stirred and heated at 80° C. for 4 hours. The cooled mixture was washed with water (3×30 ml), dried (anhydrous sodium sulphate), treated with decolourizing charcoal and filtered. The filtrate was evaporated to dryness and the residue was distilled to give t-butyl 3-cyclopropyl-3-oxopropionate (20.2 g) as a clear oil bp 80°-84° C./8 mmHg.

reactant | 5-cyclopropylcarbonyl-2,2-dimethyl-1,3-dioxan-4,6-dione | 23.9 g | C1(CC1)C(=O)C1C(OC(OC1=O)(C)C)=O | C10H12O5
reactant | t-butanol | 25 g | C(C)(C)(C)O | C4H10O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | t-butyl 3-cyclopropyl-3-oxopropionate | 20.2 g | C1(CC1)C(CC(=O)OC(C)(C)C)=O | C10H16O3
